US08895582B2
To a solution of (S)-5-((tert-butyldimethylsilyloxy)methyl)-3,3-dimethylpyrrolidin-2-one (3.1 g, 12.1 mmol) and DMAP (2.7 g, 21.8 mmol) in THF (50 mL) was added Boc2O (4.4 g, 20 mmol). The reaction mixture was stirred at RT for 3 h and concentrated. The residue was purified on silica gel column using a mixture of EtOAc and hexanes to give (S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-3,3-dimethyl-2-oxopyrrolidine-1-carboxylate (4.3 g, quant.). LRMS (M-Boc+H+) m/z 258.2.

reactant | (S)-5-((tert-butyldimethylsilyloxy)methyl)-3,3-dimethylpyrrolidin-2-one | 12.1 mmol, 3.1 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC(C(N1)=O)(C)C | C13H27NO2Si
reactant | Boc2O | 20 mmol, 4.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 21.8 mmol, 2.7 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-3,3-dimethyl-2-oxopyrrolidine-1-carboxylate | 4.3 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC(C(N1C(=O)OC(C)(C)C)=O)(C)C | C18H35NO4Si
